Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Low Back Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief, this patient is a ___ yo F w history of HTN, 
depression, PTSD presents with acute on chronic low back pain. 
She has a history of "compression of L4/L5" diagnosed at ___ 
___ for which she has received 2 cortisone shots. 
The first one about 3 months ago helped, but the second shot was 
1 week ago and hasn't provided much relief. She has been in pain 
for about 1.5 weeks. Describes the pain as starting in the lower 
right back and radiates down to the R ankle. Rated ___ and 
mostly constant. She now has trouble walking because the pain is 
so bad. She has taken Percocet, valium, and prednisone with 
little relief. Denies trauma to the area, fevers or recent 
illness. She is not diabetic. No loss of sensation in the saddle 
area or legs. No loss of bowel or bladder control. No dysuria or 
foul-smelling urine. Endorses vaginal bleeding as she is 
currently on her period. She is an active smoker.  
 In the ED, initial vitals were: 96.9 96 135/64 16 98% RA  
 - Labs were significant for: WBC 15.3, otherwise unremarkable.  

 - No imaging performed  
 - The patient was given:  
 ___ 15:27 PO/NG Cyclobenzaprine 10 mg  
 ___ 15:27 IV Morphine Sulfate 5 mg  
 ___ 16:29 IV Diazepam 5 mg  
 ___ 17:05 IV Diazepam 5 mg  
 ___ 21:01 IV Morphine Sulfate 5 mg  
 Vitals prior to transfer were: 97.7 53 124/57 18 96% RA  
 Upon arrival to the floor, pt endorses continued back pain 
exacerbated by movement. Reports pain ongoing for ___ mo, 
however has acutely worsened over past week and a half. Has been 
to ___ ED x3, most recently this past ___ 
after which she was discharged with pain medication. Reports MR 
performed 1 mo ago, which showed the L4/L5 compression. Denies 
bowel/bladder incontinence or saddle anesthesia. 

This morning, the patient appears much more comfortable. 
Received dilaudid x1 which offered relief. No fevers, chills, 
chest pain, or shortness of breath.

 
Past Medical History:
Hypertension, Obesity
 
Social History:
___
Family History:
Brother: MS, epilepsy  
Sister: epilepsy
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
 Vitals: 97.7 122/90 82 20 97% 2L->100%RA  
 wt 134.2 kg  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Back: tenderness along R paraspinal region +straight leg test 
b/l  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: AAOx3, non-focal neuro exam. no saddle anesthesia  

DISCHARGE PHYSICAL EXAM:
Vitals: 97.9, 136/88, 56, 18, 98% RA wt134.2 kg  
 General: morbidly obese woman lying in bed in no acute distress 
 
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present
 Back: tenderness along R paraspinal region +straight leg test 
b/l with pain radiating down the leg  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: AAOx3, non-focal neuro exam. no saddle anesthesia  
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:17PM BLOOD WBC-15.4* RBC-5.23* Hgb-15.7 Hct-47.3* 
MCV-90 MCH-30.0 MCHC-33.2 RDW-13.2 RDWSD-44.2 Plt ___
___ 07:17PM BLOOD Neuts-78.1* Lymphs-15.0* Monos-6.0 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-12.01* AbsLymp-2.31 
AbsMono-0.92* AbsEos-0.00* AbsBaso-0.05
___ 07:17PM BLOOD Glucose-143* UreaN-12 Creat-0.8 Na-139 
K-4.3 Cl-103 HCO3-24 AnGap-16
___ 07:17PM BLOOD ALT-51* AST-40 AlkPhos-73 TotBili-0.3

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-11.3* RBC-5.72* Hgb-17.1* Hct-52.5* 
MCV-92 MCH-29.9 MCHC-32.6 RDW-13.6 RDWSD-45.7 Plt ___
___ 06:45AM BLOOD Glucose-120* UreaN-18 Creat-0.9 Na-139 
K-4.1 Cl-102 HCO3-26 AnGap-15
___ 06:45AM BLOOD ALT-59* AST-28
___ 06:45AM BLOOD Calcium-9.7 Phos-5.0* Mg-2.1
 
Brief Hospital Course:
This is a ___ year old female with past medical history of morbid 
obesity, hypertension several months of back pain with 
radiculopathy from spinal stenosis admitted ___ w 
difficult to control back pain, now clinically improved on 
regimen including: tylenol, ibuprofen, gabapentin with prn 
oxycodone and cyclobenzaprine, ambulating comfortably, 
discharged home. 

# Acute Lower Back Pain / Radiculopathy: The patient has been 
suffering from low back pain with radiation down the right leg 
since ___, but presented with acute worsening.  MR from OSH 
demonstrated L4/L5 compression now s/p cortisol injections x2 
with mild relief. No associated saddle anesthesia, bowel/bladder 
incontinence. No history of trauma to the region and the patient 
is HD stable and afebrile. Given lack of red flag signs and 
recent MR, elected not to re-image at this time. She was treated 
with IV pain medication and started on gabapentin from which she 
received the most relief. She expressed desire to avoid 
narcotics upon discharge for fear of narcotic dependance since 
her sister suffers from narcotic abuse. She gave the team her 
narcotic prescriptions prior to discharge to be safely disposed 
of prior to her discharge. She was discharged on gabapentin to 
be increased to 300 TID over 48 hours and cyclobenzaprine and 
ibuprofen for breakthrough pain. She was also instructed to use 
her lidocaine patches PRN.  Scheduled for close PCP follow up 
and counseled regarding weight loss and smoking cessation 

# Transaminits: elevated ALT of 59 found on routine labs. 
Patient asymptomatic and given body habitus likely NASH. Patient 
asymptomatic during admission without complaints of abdominal or 
RUQ pain. Please follow up at next PCP visit and consider 
outpatient RUQ ultrasound.
 
Chronic: 
#HTN: Continued home lisinopril  
#depression/PTSD: Continued home citalopram 

TRANSITIONAL ISSUES:
- Had mild elevation of ALT (51-59), stable during this 
admission--can consider workup as outpatient. 
- Counseled patient on outpatient physical therapy for low back 
pain and agreeable to pursuing this as an outpatient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
3. Citalopram 40 mg PO DAILY 
4. PredniSONE 20 mg PO DAILY 
5. Diazepam 5 mg PO Q6H:PRN pain 
6. Lidocaine 5% Patch 1 PTCH TD QPM 
7. Cyclobenzaprine 10 mg PO TID:PRN pain 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Citalopram 40 mg PO DAILY 
2. Lidocaine 5% Patch 1 PTCH TD QPM 
3. Lisinopril 10 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Ibuprofen 600 mg PO Q8H:PRN pain 
6. Nicotine Patch 7 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour appy to skin daily Disp 
#*42 Patch Refills:*0
7. Cyclobenzaprine 10 mg PO HS:PRN pain 
8. Gabapentin 200 mg PO TID 
RX *gabapentin 100 mg 2 capsule(s) by mouth three times a day 
Disp #*8 Capsule Refills:*0
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute low back pain / Radiculopathy
Transaminitis 
Morbid Obesity
Leukocytosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
It was a pleasure caring for you here at ___ 
___. You came to us with back pain that radiated down 
into your legs. It improved significantly with gabapentin and 
rest. You were seen by physical therapy prior to your discharge.

Please follow up with all of your appointments as scheduled 
below and take your medications as prescribed.

Thank you for choosing ___ for your healthcare needs.
Sincerely,
Your ___ Team
 
Followup Instructions:
___